US06297261B1
4-biphenylyl-2-(5-tetrazolyl)phenyl urea
To a solution of N,N-carbonyidiimidazole (0.96 g, 5.0 mmol) and imidazole (0.68 g, 10 mmol) in tetrahydrofuran (10 mL) at 0° C. was added 4-aminobiphenyl (1.0 g, 5.9 mmol) in tetrahydrofuran (10 mL). After stirring at 0 C for 10 min 5-(2-aminophenyl)tetrazole (1.14 g, 7.1 mmol) was added. The reaction was stirred for another 4 hours and filtered. The filtrate was evaporated to dryness and the crude product purified by column chromatography. A yield of 0.28 g was obtained. M.p. 224-226° C.

reactant | N,N-carbonyidiimidazole | 5.0 mmol, 0.96 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | imidazole | 10 mmol, 0.68 g | N1C=NC=C1 | C3H4N2
reactant | 4-aminobiphenyl | 5.9 mmol, 1.0 g | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
reactant | 5-(2-aminophenyl)tetrazole | 7.1 mmol, 1.14 g | NC1=C(C=CC=C1)C1=NN=NN1 | C7H7N5
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-biphenylyl-2-(5-tetrazolyl)phenyl urea | C1(=C(C=CC=C1)C1=CC(=C(C=C1)NC(=O)N)C1=NN=NN1)C1=CC=CC=C1 | C20H16N6O
